US06977263B2
A solution of 3-[1-(5-phenylethynyl-pyridine-3-carbonyl)-piperidin-4-yl]-benzonitrile (0.15 g, 0.25 mmol) in ethyl acetate (20 ml) was cooled to 0° C. and then saturated with hydrogen chloride gas. The reaction mixture was stirred at ambient temperature for 4 hours and then concentrated to dryness under vacuum. The residue was treated with ethyl acetate (10 ml) and the solvent removed under vacuum. This process was repeated twice to give 3-[1-(5-phenylethynyl-pyridine-3-carbonyl)-piperidin-4-yl]-benzylamine di-hydrochloride as a white solid (0.11 g). 1H NMR [(CD3)2SO, 500 MHz]: δ 8.83 (s, 1H), 8.63 (s, 1H), 8.08 (s, 1H), 7.61 (m, 2H), 7.45 (m, 3H), 7.44 (s, 1H), 7.37 (m, 3H), 4.64 (br m, 1H), 4.00 (m, 2H), 3.62 (br m, 1H), 3.25 (br m, 1H), 2.90 (br m, 2H), 1.88 (br m, 1H), 1.70 (m, 3H). MS(EI): 396(M++H).

reactant | 3-[1-(5-phenylethynyl-pyridine-3-carbonyl)-piperidin-4-yl]-benzonitrile | 0.25 mmol, 0.15 g | C1(=CC=CC=C1)C#CC=1C=C(C=NC1)C(=O)N1CCC(CC1)C=1C=C(C#N)C=CC1 | C26H21N3O
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-[1-(5-phenylethynyl-pyridine-3-carbonyl)-piperidin-4-yl]-benzylamine di-hydrochloride | 0.11 g | Cl.Cl.C1(=CC=CC=C1)C#CC=1C=C(C=NC1)C(=O)N1CCC(CC1)C=1C=C(CN)C=CC1 | InChI=1S/C26H25N3O.2ClH/c27-17-21-7-4-8-24(15-21)23-11-13-29(14-12-23)26(30)25-16-22(18-28-19-25)10-9-20-5-2-1-3-6-20;;/h1-8,15-16,18-19,23H,11-14,17,27H2;2*1H
